US06087380
2-[N-(4-amidinophenyl)-N-methyl-aminomethyl]-benzothiazol-5-yl-carboxylic acid-N-phenyl-N-(2-hydroxycarbonylethyl)-amide-hydrochloride
Prepared analogously to Example 10 from 2-[N-(4-amidinophenyl)-N-methyl-aminomethyl]-benzothiazol-5-yl-carboxylic acid-N-phenyl-N-(2-ethoxycarbonylethyl)-amide-hydrochloride and sodium hydroxide solution. Yield: 96% of theory, C26H25N5O3S (487.58) Rf value: 0.48 (Merck RP-8, methanol/5 NaCl solution=6:4) ##EQU2##

reactant | 2-[N-(4-amidinophenyl)-N-methyl-aminomethyl]-benzothiazol-5-yl-carboxylic acid-N-phenyl-N-(2-ethoxycarbonylethyl)-amide-hydrochloride | Cl.C1(=CC=CC=C1)N(C(=O)C=1C=CC2=C(N=C(S2)CN(C)C2=CC=C(C=C2)C(N)=N)C1)CCC(=O)OCC
reactant | sodium hydroxide | [OH-].[Na+]
solvent | methanol | CO | CH4O
product | 2-[N-(4-amidinophenyl)-N-methyl-aminomethyl]-benzothiazol-5-yl-carboxylic acid-N-phenyl-N-(2-hydroxycarbonylethyl)-amide-hydrochloride | Yield: 96% | Cl.C1(=CC=CC=C1)N(C(=O)C=1C=CC2=C(N=C(S2)CN(C)C2=CC=C(C=C2)C(N)=N)C1)CCC(=O)O | InChI=1S/C26H25N5O3S.ClH/c1-30(19-10-7-17(8-11-19)25(27)28)16-23-29-21-15-18(9-12-22(21)35-23)26(34)31(14-13-24(32)33)20-5-3-2-4-6-20;/h2-12,15H,13-14,16H2,1H3,(H3,27,28)(H,32,33);1H
